US06784137B2
A mixture of 4, 5, 6-trichloropyridine-2-carbothioamide (2.85 g, 11.8 mmol) and 1-chloro-3,3,3-trifluoroacetone (2.59 g, 17.7 mmol) in glacial acetic acid (25 mL) was heated at reflux for 4 hours. Upon cooling, the solids formed were filtered and washed with water (3×100 mL) and sodium bicarbonate (3×50 mL). The solids were then dissolved in dichloromethane and the organic phase was washed with brine (150 mL), and dried (MgSO4). The solvent was removed and the residue purified by preparative liquid chromatography (90% acetonitrile in water) to give 2,3,4-trichloro-6-[5-(trifluoromethyl)-1,3-thiazol-2-yl]pyridine (0.70 g, 2.1 mmol); 1H NMR (CDCl3) δ 7.91 (s, 1H); 8.29 (s, 1H) and give 2,3,4-trichloro-6-[4-(trifluoromethyl)-1,3-thiazol-2-yl]pyridine (0.20 g, 0.6 mmol); 1H NMR (CDCl3) δ 8.24 (1H, s), 8.39 (1H, s).

reactant | 4, 5, 6-trichloropyridine-2-carbothioamide | 11.8 mmol, 2.85 g | ClC1=CC(=NC(=C1Cl)Cl)C(N)=S | C6H3Cl3N2S
reactant | 1-chloro-3,3,3-trifluoroacetone | 17.7 mmol, 2.59 g | ClCC(=O)C(F)(F)F | C3H2ClF3O
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | 2,3,4-trichloro-6-[5-(trifluoromethyl)-1,3-thiazol-2-yl]pyridine | 2.1 mmol, 0.70 g | ClC1=NC(=CC(=C1Cl)Cl)C=1SC(=CN1)C(F)(F)F | C9H2Cl3F3N2S
